US04036955
To a stirred solution of 3.0 g of N-tetrahydrofurfurylglycine tert-butyl ester and 5.6 ml of triethylamine in 80 ml of chloroform which was cooled in an ice bath, there was carefully added N2 -(7-methoxy-2-naphthalene-sulfonyl)-L-arginyl chloride hydrochloride obtained above. The reaction mixture was allowed to stand overnight at room temperature. The reaction mixture was washed twice with 20 ml of saturated sodium chloride solution and evaporated to dryness. The residue was dissolved in water-ethanol and adjusted to pH 12 with 5N NaOH to precipitate a solid. This was collected by filtration to give 4.8 g of N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine tert-butyl ester.

reactant | N-tetrahydrofurfurylglycine tert-butyl ester | 3.0 g | C(C)(C)(C)OC(CNCC1CCCO1)=O | C11H21NO3
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | N2 (7-methoxy-2-naphthalene-sulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 (7-methoxy-2-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine tert-butyl ester | 4.8 g | N#N.C(C)(C)(C)OC(CN(CC1CCCO1)C([C@@H](NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)CCCNC(N)=N)=O)=O | InChI=1S/C28H41N5O7S.N2/c1-28(2,3)40-25(34)18-33(17-22-7-6-14-39-22)26(35)24(8-5-13-31-27(29)30)32-41(36,37)23-12-10-19-9-11-21(38-4)15-20(19)16-23;1-2/h9-12,15-16,22,24,32H,5-8,13-14,17-18H2,1-4H3,(H4,29,30,31);/t22?,24-;/m0./s1
